US06203721B1
A single-necked round-bottomed 5 ml flask held under nitrogen is charged with di-n-octyl disulphide (291 mg, 1 mmol), anhydrous tetramethylammonium fluoride (140 mg, 1.5 mmol) and then 2 ml of anhydrous DMF. The reaction mixture is cooled to 0° C. and then fluoroform (200 mg, 2.9 mmol) is bubbled in. A solution of tris(trimethylsilyl)amine (352 mg, 1.5 mmol) in 1 ml of THF is subsequently injected at 0° C. The reaction mixture is stirred at 0° C. for 5.5 h. It is then allowed to return to room temperature and is assayed by 19F NMR: the trifluoromethyl n-octyl sulphide is obtained with a crude yield of 76%.

reactant | di-n-octyl disulphide | 1 mmol, 291 mg | C(CCCCCCC)SSCCCCCCCC | C16H34S2
reactant | tetramethylammonium fluoride | 1.5 mmol, 140 mg | [F-].C[N+](C)(C)C
reactant | fluoroform | 2.9 mmol, 200 mg | C(F)(F)F | CHF3
reactant | tris(trimethylsilyl)amine | 1.5 mmol, 352 mg | C[Si](C)(C)N([Si](C)(C)C)[Si](C)(C)C | C9H27NSi3
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | trifluoromethyl n-octyl sulphide | C(CCCCCCC)SC(F)(F)F | C9H17F3S
